US08034812B2
Production of N-[2-chloro-5-({2[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]cyclopropanecarboxamide
Using N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.435 mmol), cyclopropanecarbonyl chloride (71.8 mg, 0.652 mmol), triethylamine (132 mg, 1.30 mmol) and tetrahydrofuran (17 mL) as starting materials and in the same manner as in Example 96, the title compound (156 mg, 87%) was obtained as a white powder.

reactant | N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.435 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1Cl | C16H14ClN5O2
reactant | cyclopropanecarbonyl chloride | 0.652 mmol, 71.8 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 1.30 mmol, 132 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
product | N-[2-chloro-5-({2[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]cyclopropanecarboxamide | 156 mg, 87% | ClC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)NC(=O)C2CC2 | C20H18ClN5O3
